US06511978B1
7-1) Preparation of 1-(furan-2-yl)methyl-5-hydroxymethyl-1H-imidazole
0.97 g(10 mmol) of furfurylamine, 1.08 g(6 mmol) of dihydroxyacetone dimer and 1.15 g(11 mmol) of potassium thiocyanide were added to 10 ml of isopropyl alcohol, 2 ml of acetic acid was added thereto, and the resulting mixture was stirred for 48 hours at room temperature. The reaction mixture was filtered and the resulting solid was washed twice with 5 ml of isopropyl alcohol and twice with 5 ml of water. The filtered solid was added to 20 ml of 10% aqueous nitric acid solution. To the reaction solution was added 10 mg of sodium nitrite at 0° C. and the mixture was reacted for 1 hour at room temperature. The aqueous solution was washed with 10 ml of ethylacetate, basified and recrystallized to give 1.07 g(Yield 60%) of the title compound.

reactant | furfurylamine | 10 mmol, 0.97 g | C(C1=CC=CO1)N | C5H7NO
reactant | dihydroxyacetone dimer | 6 mmol, 1.08 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | potassium thiocyanide | 11 mmol, 1.15 g | S(C#N)C#N.[K]
reactant | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 1-(furan-2-yl)methyl-5-hydroxymethyl-1H-imidazole | 1.07 g, Yield 60% | O1C(=CC=C1)CN1C=NC=C1CO | C9H10N2O2
